US04659727
A stirred mixture of 2,6-diaminopyridine (0.3 g) and 2-ethoxy-1,1-bis(phenylsulphonyl)ethene (2.1 g) in toluene (50 ml) was heated at reflux for 2 hours. The mixture was cooled, and concentrated in vacuo, and the resulting solid was subjected to medium pressure chromatography on silica gel, eluting with acetone, to give 2,6-bis[2,2-bis(phenylsulphonyl)ethen-1-ylamino]pyridine (0.45 g), in the form of a white powder, m.p. 299°-300° C.

reactant | 2,6-diaminopyridine | 0.3 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | 2-ethoxy-1,1-bis(phenylsulphonyl)ethene | 2.1 g | C(C)OC=C(S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C16H16O5S2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-bis[2,2-bis(phenylsulphonyl)ethen-1-ylamino]pyridine | 0.45 g | C1(=CC=CC=C1)S(=O)(=O)C(=CNC1=NC(=CC=C1)NC=C(S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C33H27N3O8S4
